US07781438B2
Preparation of 3-Chloro-8-hydroxy-naphthalene-2-carboxylic acid ethyl ester
Tetrabutylammonium iodide (3.74 g, 10.12 mmol, 1.3 equiv) was added to a solution of 3-chloro-8-methoxy-naphthalene-2-carboxylic acid ethyl ester (2.06 g, 7.79 mmol) in anhydrous CH2Cl2 (39 ml). After cooling to −78° C., BCl3 (1M solution in CH2Cl2, 19.46 ml, 19.46 mmol, 2.5 equiv) was added dropwise. The reaction mixture was stirred at −78° C. for 30 minutes and then let warm to room temperature. After 2 hours at room temperature, cold water (4° C., 40 ml) was added slowly, and the resulting mixture was vigorously stirred for 30 minutes before it was extracted with EtOAc (800 ml total). The combined organic layers were washed with concentrated aqueous NaHCO3 solution (100 ml) and concentrated aqueous NH4Cl solution (100 ml), dried over Na2SO4, filtered and concentrated in vacuo. Purification via flash chromatography (gradient of hexane/EtOAc 100:0 to 6:4) afforded the title compound (1.84 g, 95%, inseparable 1:1.3 mixture of regioisomers A:B) as a slightly yellow solid. 1H NMR (400 MHz, d6-DMSO): δ=10.69 (br s, 1H isomer B), 10.55 (br s, 1H isomer A), 8.60 (s, 1H isomer B), 8.35 (s, 1H isomer A), 8.16 (s, 1H isomer A), 8.06 (s, 1H isomer B), 7.55-7.36 (m, 2H isomer A+2H isomer B), 7.01 (d, J=7.6 Hz, 1H isomer A), 6.95 (d, J=7.5 Hz, 1H isomer B), 4.36 (q, J=7.1 Hz, 2H isomer A+2H isomer B), 1.37-1.33 (m, 3H isomer A+3H isomer B). MS (ES+): 251 (M+H)+.

reactant | 3-chloro-8-methoxy-naphthalene-2-carboxylic acid ethyl ester | 7.79 mmol, 2.06 g | C(C)OC(=O)C1=CC2=C(C=CC=C2C=C1Cl)OC | C14H13ClO3
reactant | BCl3 | 19.46 mmol, 1M, 19.46 ml, 2.5 equiv | B(Cl)(Cl)Cl | BCl3
reactant | water | 40 ml | O | H2O
catalyst | Tetrabutylammonium iodide | 10.12 mmol, 3.74 g, 1.3 equiv | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 39 ml | C(Cl)Cl | CH2Cl2
product | 3-Chloro-8-hydroxy-naphthalene-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(C=CC=C2C=C1Cl)O | C13H11ClO3
